US06080862
(1S,2R,3S)-1-(3,4-methylenedioxyphenyl)-3-[2-hydroxy-4-methoxyphenyl]-5-propoxyindane-2-carboxylic acid
Methyl-(1S,2R,3S)-1-(3,4-methylenedioxyphenyl)-3-(4-methoxy-2-hydroxyphenyl)-5-propoxyindane-2-carboxylate (0.3183 g, 0.667 mmoles) was dissolved in 2 mL of tetrahydrofuran and 4 mL of methanol. A solution of lithium hydroxide (0.1402 g, 3.34 mmoles) in 1.8 mL of water was added over a period in one portion. The reaction mixture was heated to reflux temperature while monitoring the reaction progress by HPLC. After 22 hours at reflux, HPLC analysis indicated that the reaction was complete. The reaction mixture was cooled to 25° C., then diluted with t-butyl methyl ether (5 mL). A 5% solution of citric acid (5 mL) was added and the mixture was stirred for five minutes. The layers were separated and the aqueous layer was extracted with 10 mL of t-butyl methyl ether. The combined organic layers were washed twice with water and filtered. The solution was concentrated under reduced pressure to afford the title compound as a white solid.

reactant | Methyl-(1S,2R,3S)-1-(3,4-methylenedioxyphenyl)-3-(4-methoxy-2-hydroxyphenyl)-5-propoxyindane-2-carboxylate | 0.667 mmoles, 0.3183 g | COC(=O)[C@@H]1[C@H](C2=CC=C(C=C2[C@H]1C1=C(C=C(C=C1)OC)O)OCCC)C1=CC2=C(C=C1)OCO2 | C28H28O7
reactant | lithium hydroxide | 3.34 mmoles, 0.1402 g | [OH-].[Li+]
reactant | citric acid | 5 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 1.8 mL | O | H2O
solvent | t-butyl methyl ether | 5 mL | COC(C)(C)C | C5H12O
product | (1S,2R,3S)-1-(3,4-methylenedioxyphenyl)-3-[2-hydroxy-4-methoxyphenyl]-5-propoxyindane-2-carboxylic acid | C1OC=2C=C(C=CC2O1)[C@@H]1[C@H]([C@@H](C2=CC(=CC=C12)OCCC)C1=C(C=C(C=C1)OC)O)C(=O)O | C27H26O7
